US07226923B2
4-(1-tert-Butyl-5-methyl-1H-pyrazol-3-ylamino)-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one
4-Bromo-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one (prepared from the appropriate starting materials in analogy to Method Q-1) was coupled with 1-tert-butyl-5-methyl-1H-pyrazol-3-ylamine in a Buchwald reaction as described in Method O to give the title compound (0.049 g, 31% yield). 1H-NMR: (400 MHz, D6-DMSO) 8.44 (1H, s), 8.40 (1H, d), 8.33 (1H, d), 8.05 (1H, t), 7.97 (1H, t), 7.62 (2H, d), 7.40 (2H, d), 7.30 (2H, d), 7.24 (2H, d), 6.00 (1H, s), 2.28 (3H, s), 2.12 (3H, s), 1.57 (9H, s); MS (ESI+)=464.36 (M+H)+.

reactant | 4-Bromo-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C21H15BrN2O
reactant | 1-tert-butyl-5-methyl-1H-pyrazol-3-ylamine | C(C)(C)(C)N1N=C(C=C1C)N | C8H15N3
product | 4-(1-tert-Butyl-5-methyl-1H-pyrazol-3-ylamino)-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one | 0.049 g, 31% yield | C(C)(C)(C)N1N=C(C=C1C)NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C29H29N5O
